US06756378B2
The mixture of pentafluorophenyl 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetate (500 mg, 1.04 mmol), methyl 3-chloro-4-(2-pyrrolidinyl)methoxybenzoate (281 mg, 1.04 mmol), Et3N (0.17 mL, 1.25 mmol) in DMF (5 mL) was stirred for 1 hr at room temp. The mixture was diluted with EtOAc, washed with brine, and dried over Na2SO4. The solvent was removed under a reduced pressure, and the residue was chromatographed on silica-gel with n-hexane-EtOAc (1:3, v/v) as eluent to afford methyl 3-chloro-4-[[1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinyl]methoxy]benzoate (620 mg, 1.04 mmol) as a white crystalline solid. To a stirred solution of this compound in THF (8 mL) and H2O (2 mL) was added LiOH (74.9 mg, 3.126 mmol), and the mixture was stirred at room temp for 2 days. The mixture was diluted with CHCl3, and treated with 1N HCl. The solution was washed with brine, dried over Na2SO4, and evaporated in vacuo. The crude solid was recrystallized from n-hexane-EtOAc—CHCl3 to afford 561.2 (98%) 29 as a white crystalline material. IR (KBr) 1676, 1599, 1487, 1267, 758, 754 cm−1; 1H-NMR (400 MHz, DMSO-d6) δ1.82-2.24 (m, 4H), 2.25 (s. 3H), 3.48-3.60 (m, 4H), 3.78 (s, 3H), 4.18 (m, 2H), 4.31 (m, 1H), 6.74 (dd, J=1.5, 8.3 Hz, 1H), 6.84 (d, J=2.0 Hz, 1H), 6.91-6.95 (m, 1H), 7.11-7.17 (m, 3H), 7.79 (dd, J=2.0, 8.3 Hz, 2H), 7.85 (d, J=2.0 Hz, 1H), 7.98 (d, J=8.3 Hz, 1H), 8.53 (s, 1H), 8.58 (s, 1H); MS (FAB) m/z 552 (M++1).

reactant | pentafluorophenyl 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetate | 1.04 mmol, 500 mg | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)OC1=C(C(=C(C(=C1F)F)F)F)F | C23H17F5N2O4
reactant | methyl 3-chloro-4-(2-pyrrolidinyl)methoxybenzoate | 1.04 mmol, 281 mg | ClC=1C=C(C(=O)OC)C=CC1OCC1NCCC1 | C13H16ClNO3
reactant | Et3N | 1.25 mmol, 0.17 mL | CCN(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 3-chloro-4-[[1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinyl]methoxy]benzoate | 1.04 mmol, 620 mg | ClC=1C=C(C(=O)OC)C=CC1OCC1N(CCC1)C(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)OC)=O | C30H32ClN3O6
